US08389527B2
To a vial was added tert-butyl 4-(cyclopropylcarbamoyl)phenylcarbamate (326 mg, 1.18 mmol) and TFA (2 mL). The solution was stirred at 25° C. for 1 hour. The solution was concentrated in vacuo to give the crude product mixture which was purified by passing through a SCX column (2 g), eluting with the 2N ammonia in methanol to yield the pure product 4-amino-N-cyclopropylbenzamide (210 mg, 100%). LC/MS, m/z 177.05 (M+1). HPLC Rt, 0.63 min. Waters Sunfire C18 column (4.6×50 mm) 0%-100% B. Solvent B: (90% MeOH, 10% H2O, 0.1% TFA). Solvent A: (10% MeOH, 90% H2O, 0.1% TFA). Gradient, start % B=0, final % B=100, gradient time 4 min, hold at 100% B 1 min, flow rate 4 mL/min.

reactant | tert-butyl 4-(cyclopropylcarbamoyl)phenylcarbamate | 1.18 mmol, 326 mg | C1(CC1)NC(=O)C1=CC=C(C=C1)NC(OC(C)(C)C)=O | C15H20N2O3
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 4-amino-N-cyclopropylbenzamide | 210 mg, 100% | NC1=CC=C(C(=O)NC2CC2)C=C1 | C10H12N2O
